US04399141
2-Hydroxy-5-methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5,10-imine
A mixture of 2-methoxy-5-methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5,10-imine (2.7 g, 0.0107 mol) and pyridinium hydrochloride (16.2 g) is stirred at 200° for 2 hours. The melt is cooled to 50° C. and slurried with water (75 ml). The slurry is made basic with aqueous saturated NaHCO3 and extracted with ether (3×100 ml). The combined extracts are dried over MgSO4 and filtered, and the filtrate evaporated to dryness under reduced pressure to give 2.19 g of crude product. Column chromatography (silica gel with 2% methanol in chloroform) provides a solid which is recrystallized from ethyl acetate to give 1.20 g (47%) of pure title compound; m.p. 215°-217° C.

reactant | 2-methoxy-5-methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5,10-imine | 0.0107 mol, 2.7 g | CC12C3=C(CC(N1)C4=CC=CC=C24)C=C(C=C3)OC | C17H17NO
reactant | pyridinium hydrochloride | 16.2 g | Cl.[NH+]1=CC=CC=C1
reactant | water | 75 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 2-Hydroxy-5-methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5,10-imine | 1.20 g, 47% | CC12C3=C(CC(N1)C4=CC=CC=C24)C=C(C=C3)O | C16H15NO
